US06953679B2
The above synthesized 1-chloro-5-nitronaphthalene (540 mg, 2.6 mmol) was dissolved in 10 mL AcOH, followed by treatment with 415 mg (7.43 mmol) iron powder and subsequently acylated with Ac2O (0.26 mL, 2.73 mmol) according to the procedure described in Example 209A to give 543 mg (95%) of 1-acetamino-5-chloronaphthalene.

reactant | 1-chloro-5-nitronaphthalene | 2.6 mmol, 540 mg | ClC1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H6ClNO2
reactant | Ac2O | 2.73 mmol, 0.26 mL | CC(=O)OC(=O)C | C4H6O3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
catalyst | iron | 7.43 mmol, 415 mg | [Fe] | Fe
product | 1-acetamino-5-chloronaphthalene | 543 mg, 95% | N(C(=O)C)C1=CC=CC2=C(C=CC=C12)Cl | C12H10ClNO
